Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
nabumetone
 
Attending: ___
 
Chief Complaint:
fibroids, bulk symptoms, menorrhagia
 
Major Surgical or Invasive Procedure:
TOTAL ABDOMINAL HYSTERECTOMY; BILATERAL SALPINGECTOMY 

 
History of Present Illness:
Seen in ___ for severe anemia and menorrhagia and noted to have 
a large fibroid uterus. hct 23%. Received transfusion.

Of note, noted to have LVH on ECHO sec to longstanding anemia. 

 

Mri has shown a 18 cm myoma with degeneration and a few other 
smaller fibroids (details below).

She is interested in preserving uterus 

 

Having more sxs related to fibroids.  She feels a buldge under 
the L ribs.  She states that she needs to splint to start the 
urine flow.  She did have wt loss recently.  She has been taking 
OCPs and she has been inconsistent about taking the pill.  
Discomfort in the LUQ occasionally.   She is constipated as well 
with iron and fibroids. 

 

emb ___- benign proliferative endometrium, fragments of 
endometrial polyp.

 
 
Past Medical History:
Anemia 
Fracture of bone 
wrist as child, still a little stiffness at times 

 
Social History:
Social HX: 

      

Social History 

Substance Use Topics 

• 

Smoking status: 

Never Smoker 

• 

Smokeless tobacco: 

Never Used 

• 

Alcohol use 

3.6 oz/week 

  

  

6 Standard drinks or equivalent per week 

  

  

  

Comment: ___ beers a week 

 
Family History:
Family History 

Problem 

Relation 

Age of Onset 

• 

osteoarthritis [OTHER] 

Mother 

  

• 

LTBI [OTHER] 

Father 

  

  

  

asym, treated 

• 

no cad, stroke, dm, cancers [OTHER] 

Other 

  

• 

Cancer - Colon 

Neg HX 

  

• 

Cancer - Melanoma 

Neg HX 

  

• 

Cancer - Ovarian 

Neg HX 

  

 

 Family history of problems with anesthesia, blood clotting 
disorders, pulmonary embolis or bleeding disorders denied.
 
Physical Exam:
PHYSICAL EXAM AT ADMISSION
==========================
Estimated body mass index is 38.04 kg/(m^2) as calculated from 
the following:

  Height as of ___: 5' 2.6" (1.59 m).

  Weight as of ___: 212 lb (96.2 kg).

BP 120/84 (Site: Left Arm, Positioning: Sitting, Cuff Size: 
Large) | Ht 5' 2" (1.575 m) | Wt 214 lb (97.1 kg) | LMP 
___ (Approximate) | BMI 39.14 kg/m2

Well appearing woman, sitting comfortably, well oriented with 
normal mental status.
Lungs- clear
Heart- normal heart sounds
Abdomen: Soft, NT, ND, no hepatosplenomagaly, 24 wk pelvic mass.
Well appearing woman, sitting comfortably, well oriented with 
normal mental status.
Thyroid: Not enlarged
Lungs- clear
Heart- normal heart sounds
Abdomen: Soft, NT, ND, no hepatosplenomagaly, no palpable masses
Pelvic: No inguinal ___ genitalia: normal and without any lesions; 
SE: vagina well epithelialized, no lesions. Cervix nuliparous, 
no lesions observed. 
VE: No CMT. Uterus size consistent with 26 weeks Adnexa: unable 
to assess
Anus and perineum without any lesions.
Rectal: not indicated.

PHYSICAL EXAM AT DISCHARGE
==========================
Vital signs and Ins/Outs reviewed: tachycardic to 115 between MN
and 0400, now resolved s/p increased pain medication,
hypertensive to 165/95, now normal - other vitals wnl
General: NAD, comfortable
CV: RRR
Lungs: CTAB
Abdomen: soft, non-distended, minimally tender to palpation
without rebound or guarding, dressing clean/dry/intact
GU: pad with minimal spotting, foley with clear urine
Extremities: no edema, no TTP, pneumoboots in place bilaterally 

 
Pertinent Results:
___ 02:10PM   WBC-15.8*# RBC-5.40*# HGB-12.2# HCT-42.6# 
MCV-79*# MCH-22.6*# MCHC-28.6*# RDW-16.1* RDWSD-45.8
 
Brief Hospital Course:
On ___ Ms. ___ was admitted to the gynecology service 
after undergoing a total abdominal hysterectomy and bilateral 
salpingectomy. Please see the operative report for full details.

Immediately post-op, her pain was controlled with IV 
hydromorphone as patient-controlled analgesia and scheduled IV 
toradol.

On post-operative day 1, her urine output was adequate and her 
Foley was removed with a voiding trial, the results of which are 
as follows:
1. Instilled 300 mL, voided 175 mL with 497 mL residual.
2. Voided 200 mL with 517 mL residual.
3. Voided 200 mL with 307 residual
4. Voided 300 with 278ml residual

Her Foley catheter was reinserted overnight. Her diet was 
advanced without difficulty and she was transitioned to oral 
oxycodone, ibuprofen and acetaminophen.  On post-operative day 
2, the catheter was removed and she voided spontaneously. She 
was tolerating a regular diet, ambulating independently, and 
pain was controlled with oral medications. She was then 
discharged home in stable condition with outpatient follow-up 
scheduled.

 
Medications on Admission:
Outpatient Prescriptions Marked as Taking for the ___ 
encounter (Pre-op) with ___, MD:

NORETHINDRONE-ETHINYL ESTRADIOL-IRON 1.5 MG-30 MCG TAB (NORETH 
A-ET ESTRA/FE FUMARATE), Take 1 tablet by mouth daily

MULTIVITAMIN/IRON/FOLIC ACID (CENTRUM WOMEN ORAL), Take 1 tablet 
by mouth daily

LORATADINE/PSEUDOEPHEDRINE (CLARITIN-D 24 HOUR ORAL), Take 1 
tablet by mouth daily

aspirin ___ CHEWABLE ASPIRIN) 81 mg tablet, chewable, Chew 81 
mg daily

INDOMETHACIN 50 MG CAP, Take 1 capsule by mouth three times 
daily with meals

ALBUTEROL SULFATE HFA 90 MCG/ACTUATION AEROSOL INHALER, Inhale 2 
puffs every 4 hours as needed

TRIAMCINOLONE ACETONIDE 0.1 % OINTMENT, Apply to the affected 
area twice daily

CLOBETASOL 0.05 % OINTMENT, Apply to the affected area twice 
daily

 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*30 Tablet Refills:*3 
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*3 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone [Oxaydo] 5 mg ___ tablet(s) by mouth every 4 hours 
Disp #*30 Tablet Refills:*0 
5.  Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath, 
wheeze  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fibroid uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___